US09193720B2
To a stirred solution of 4-bromophenol (81.7 g, 472 mmol), 2-(4-fluorophenyl)ethanol (79 g, 567 mmol) and Ph3P (149 g, 567 mmol) in THF (100 mL) cooled in an ice-water bath was added drop wise DEAD (93 ml, 590 mmol) over 20 min. Note: The reaction is exothermic and efficient cooling is highly recommended before initiating large scale reaction. After 1 h, cold bath was removed and stirred overnight (17 h) at rt. Then, the reaction mixture was concentrated, the resulting residue triturated with hexanes, filtered and the filter cake washed with 10% ether/hexanes (2-lit). The filtrate was concentrated and purified by flash chromatography (silica gel column 3″×11″) using 4-lit hexanes and 2-lit 2% EtOAc/Hex to afford 1-bromo-4-(4-fluorophenethoxy)benzene (142 g, 469 mmol, 99% yield) as colorless liquid (contaminated with ˜2.5% Ph3P by 1HNMR). 1H NMR (500 MHz, CDCl3) δ 7.41-7.36 (m, 2H), 7.28-7.22 (m, 2H), 7.05-6.99 (m, 2H), 6.82-6.76 (m, 2H), 4.14 (t, J=6.9 Hz, 2H), 3.08 (t, J=6.9 Hz, 2H).

reactant | 4-bromophenol | 472 mmol, 81.7 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 2-(4-fluorophenyl)ethanol | 567 mmol, 79 g | FC1=CC=C(C=C1)CCO | C8H9FO
reactant | Ph3P | 567 mmol, 149 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 590 mmol, 93 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-bromo-4-(4-fluorophenethoxy)benzene | 469 mmol, 142 g, 99% yield | BrC1=CC=C(C=C1)OCCC1=CC=C(C=C1)F | C14H12BrFO
